US07981903B2
A solution of N-{(1S)-1-methyl-2-[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethyl}-N-propyl-1-propanamine (0.6 g, 1.72 mmols) in absolute ethanol (50 mL) was maintained under 45 psi H2(g) with catalytic 10% Pd/C for 16 hours. The catalyst was removed by vacuum filtration through a celite pad and rinsed with methanol. The filtrate was collected, concentrated under reduced pressure, and dried under high vacuum to give 1-[(2S)-2-(dipropylamino)propanoyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine. ESIMS (M+H)+=320.

reactant | N-{(1S)-1-methyl-2-[5-(methyloxy)-6-nitro-2,3-dihydro-1H-indol-1-yl]-2-oxoethyl}-N-propyl-1-propanamine | 1.72 mmols, 0.6 g | C[C@@H](C(=O)N1CCC2=CC(=C(C=C12)[N+](=O)[O-])OC)N(CCC)CCC | C18H27N3O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 1-[(2S)-2-(dipropylamino)propanoyl]-5-(methyloxy)-2,3-dihydro-1H-indol-6-amine | C(CC)N([C@H](C(=O)N1CCC2=CC(=C(C=C12)N)OC)C)CCC | C18H29N3O2
